US04851526
α-(Bromomethyl)-4-(1H-imidazol-1-yl)benzenemethanol
Stir a mixture of 2-bromo-1-[4-(1H-imidazol-1-yl)-phenyl]ethanone hydrobromide (15.45 g, 44.6 mmol) and sodium cyanoborohydride (5.61 g, 89.3 mmol) in methanol (250 mL). Add a crystal of methyl orange and adjust the pH to 3.0 with 1.35M hydrochloric acid in methanol. Maintain the pH at 3.0 for about 2 hr. Treat the resulting solution with decolorizing carbon and filter through celite. Concentrate the filtrate and add water (200 mL) and methylene chloride (100 mL) to the residue. Adjust the pH to 7.5 with 2N NaOH solution. Separate the layers and extract the aqueous layer with methylene chloride (100 mL) and combine, dry over Na2SO4, filter and concentrate in vacuo. Add ethyl acetate to the residue to afford crystals of the title compound.

reactant | 2-bromo-1-[4-(1H-imidazol-1-yl)-phenyl]ethanone hydrobromide | 44.6 mmol, 15.45 g | Br.BrCC(=O)C1=CC=C(C=C1)N1C=NC=C1
reactant | sodium cyanoborohydride | 89.3 mmol, 5.61 g | C(#N)[BH3-].[Na+]
reactant | methyl orange | CN(C)C=1C=CC(=CC1)N=NC=2C=CC(=CC2)S(=O)(=O)O | C14H15N3O3S
reactant | hydrochloric acid | 1.35M | Cl | ClH
solvent | methanol | 250 mL | CO | CH4O
product | α-(Bromomethyl)-4-(1H-imidazol-1-yl)benzenemethanol | BrCC(O)C1=CC=C(C=C1)N1C=NC=C1 | C11H11BrN2O
